US06706751B2
To a solution of 2.1 g (9.81 mmol) 5-Bromo-6-fluoro-indole in 35 ml of DMF were added 1.54 g (13.76 mmol) KOtBu and 3.0 g (13.76 mmol) Di-tert.butylcarbonate, and the solution was stirred for 1 hr at room temperature and 30 min at 60° C. The mixture was poured into water, acidified with 2M aqueous HCl and extracted with Et2O. Drying of the organic layers with MgSO4, evaporation of the solvent, and chromatography on silica gel with hexane/EtOAc 49:1 gave 2.6 g (84%) 5-Bromo-6-fluoro-indole-1-carboxylic acid tert-butyl ester as a colorless liquid, MS: 313 (M, 1Br).

reactant | 5-Bromo-6-fluoro-indole | 9.81 mmol, 2.1 g | BrC=1C=C2C=CNC2=CC1F | C8H5BrFN
reactant | KOtBu | 13.76 mmol, 1.54 g | CC(C)(C)[O-].[K+]
reactant | Di-tert.butylcarbonate | 13.76 mmol, 3.0 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Bromo-6-fluoro-indole-1-carboxylic acid tert-butyl ester | 2.6 g, 84% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=C(C=C12)F)Br | C13H13BrFNO2
